US09085555B2
6-Cyclopropyl-4-methylpyridin-3-amine
To a solution of 2-cyclopropyl-4-methyl-5-nitropyridine (201 mg, 0.96 mmol) in MeOH (5 mL) were added 3N aqueous HCl (9.6 mL, 28.8 mmol) and Zn powder (376 mg, 5.75 mmol). The mixture was stirred 18 h at RT. The solution was neutralized with a sat. aq. NaHCO3 solution and extracted with CH2Cl2 (3×). The combined organics were dried (Phase Separator) and concentrated under reduced pressure. MS (LC-MS): 149 [M+H]+, tR (HPLC conditions c): 2.22 min.

reactant | 2-cyclopropyl-4-methyl-5-nitropyridine | 0.96 mmol, 201 mg | C1(CC1)C1=NC=C(C(=C1)C)[N+](=O)[O-] | C9H10N2O2
reactant | HCl | 28.8 mmol, 3N, 9.6 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Zn | 5.75 mmol, 376 mg | [Zn] | Zn
product | 6-Cyclopropyl-4-methylpyridin-3-amine | C1(CC1)C1=CC(=C(C=N1)N)C | C9H12N2
